US04328341
(b) 3-Allyloxy-4,6-diacetyl-N-ethylaniline
Allyl bromide (2 g) was added to a stirred solution of 4,6-diacetyl-3-ethylaminophenol (0.016 M) in dimethylformamide (30 ml) containing potassium carbonate (2 g). The mixture was heated at 60°-70° C. for two hours, and was then poured into water (100 ml), stirred, and the precipitated product isolated by filtration. Yield 93%, mp 82°-83° C.

reactant | Allyl bromide | 2 g | C(C=C)Br | C3H5Br
reactant | 4,6-diacetyl-3-ethylaminophenol | 0.016 M | C(C)(=O)C1=C(C=C(C(=C1)C(C)=O)O)NCC | C12H15NO3
reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3-Allyloxy-4,6-diacetyl-N-ethylaniline | Yield 93% | C(C=C)OC=1C=C(NCC)C(=CC1C(C)=O)C(C)=O | C15H19NO3
